US05576343
10.0 g of methyl 6-hydroxymethyl-5,6,7,8-tetrahydro-2-naphthalenecarboxylate was added to 3.82 g of 2,3-dihydropyrane. After further adding 5 drops of concentrated sulfuric acid, the resulting mixture was stirred for 1 hour. To this were further added 1.00 g of 2,3-dihydropyrane and 3 drops of concentrated sulfuric acid, followed by stirring for 5 hours. The resulting reaction mixture was mixed with 100 ml of diethyl ether, and the mixture was washed with saturated sodium bicarbonate aqueous solution, water and saturated sodium chloride aqueous solution in that order, followed by drying. By distilling off the solvent, 13.72 g of methyl 6-[(2-tetrahydropyranyl)oxymethyl]-5,6,7,8-tetrahydro-2-naphthalenecarboxylate was obtained in the form of yellow oil.

reactant | methyl 6-hydroxymethyl-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 10.0 g | OCC1CC=2C=CC(=CC2CC1)C(=O)OC | C13H16O3
reactant | 2,3-dihydropyrane | 3.82 g | O1CCCC=C1 | C5H8O
reactant | 2,3-dihydropyrane | 1.00 g | O1CCCC=C1 | C5H8O
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | methyl 6-[(2-tetrahydropyranyl)oxymethyl]-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 13.72 g | O1C(CCCC1)OCC1CC=2C=CC(=CC2CC1)C(=O)OC | C18H24O4
